US07838543B2
Step 3. 2-Methyl-biphenyl-4-carboxylic Acid {2-[(2-dimethylamino-ethyl)-methyl-amino]-benzothiazol-6-yl}-amide
The title compound is prepared by following General Method A, using 2-methyl-biphenyl-4-carboxylic acid (0.072 g, 0.34 mmol), and N*2*-(2-dimethylamino-ethyl)-N*2*-methyl-benzothiazole-2,6-diamine (0.065 g, 0.26 mmol) to give 0.036 g, (31%) of product. LC/MS: Retention time=4.80 min; (m/z): calcd for C2H28N4OS (M+H)+: 445.6; found: 445.0.

reactant | 2-methyl-biphenyl-4-carboxylic acid | 0.34 mmol, 0.072 g | CC1=C(C=CC(=C1)C(=O)O)C1=CC=CC=C1 | C14H12O2
reactant | N*2*-(2-dimethylamino-ethyl)-N*2*-methyl-benzothiazole-2,6-diamine | 0.26 mmol, 0.065 g | CN(CCN(C=1SC2=C(N1)C=CC(=C2)N)C)C | C12H18N4S
product | 2-Methyl-biphenyl-4-carboxylic Acid {2-[(2-dimethylamino-ethyl)-methyl-amino]-benzothiazol-6-yl}-amide | CN(CCN(C=1SC2=C(N1)C=CC(=C2)NC(=O)C2=CC(=C(C=C2)C2=CC=CC=C2)C)C)C | C26H28N4OS
